US06936602B1
To a solution of methyl 7-(4-butoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate (300 mg) and 3-propoxybenzaldehyde (623 mg) in 1,2-dichloroethane (10 ml) was added sodium triacetoxyborohydride (804 mg), and the mixture was stirred under nitrogen atmosphere at room temperature for 5 days. Then, water was added to the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane ethyl acetate=3:1) to give methyl 7-(4-butoxyethoxyphenyl)-1-(3-propoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate (412 mg) as yellow oil.

reactant | methyl 7-(4-butoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 300 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | 3-propoxybenzaldehyde | 623 mg | C(CC)OC=1C=C(C=O)C=CC1 | C10H12O2
reactant | sodium triacetoxyborohydride | 804 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | methyl 7-(4-butoxyethoxyphenyl)-1-(3-propoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 412 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC2=CC(=CC=C2)OCCC)C(=O)OC)C1 | C34H41NO5
